US04016186
Cooling in an ice bath 0.93 g (5 mmol) of 1-(p-ethylphenoxy)-butan- 2-ol was dissolved in 10 ml of pyridine, and to this solution was added dropwise 0.53 g (5 mmol) of isobutyryl chloride. The mixture was stirred at room temperature for 3 hours after the addition was completed. The reaction mixture was treated in the same manner as in Example 7, and purified by column chromatography using silica gel to afford 1.3 g of 1 -(p-ethylphenoxy)-butan-2-ol isobutyrate (compound No. 15) in a yield of 83% as a colorless oily substance. The refractive index of the product was nD32 = 1.4799.

reactant | 1-(p-ethylphenoxy)-butan- 2-ol | 5 mmol, 0.93 g | C(C)C1=CC=C(OCC(CC)O)C=C1 | C12H18O2
reactant | isobutyryl chloride | 5 mmol, 0.53 g | C(C(C)C)(=O)Cl | C4H7ClO
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1 -(p-ethylphenoxy)-butan-2-ol isobutyrate | 1.3 g, yield of 83% | C(C(C)C)(=O)OC(COC1=CC=C(C=C1)CC)CC | C16H24O3
